US09034866B2
To a suspension of 10-bromo-9-fluoro-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide (75 mg) in anhydrous N,N-Dimethylformamide was added acetic acid, dimethylamine hydrochloride and 200 mg powdered 4 angstrom molecular sieves. The reaction was stirred for 30 minutes before the addition of sodium cyanoborohydride then continued to stir at room temperature for 18 hours. The reaction mixture was then extracted with dichloromethane and saturated ammonium chloride. The organic layer was dried, filtered and concentrated to afford crude 10-bromo-3-((dimethylamino)methyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide. This crude intermediate was directly reacted with 2-Methyl-3-butyne-ol via General Procedure E to afford 34 mg (41%) of 3-[(dimethylamino)methyl]-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | 10-bromo-9-fluoro-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 75 mg | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C=O)C1)F | C15H11BrFN3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | N,N-Dimethylformamide | CN(C=O)C | C3H7NO
product | 10-bromo-3-((dimethylamino)methyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CN(C)C)C1)F | C17H18BrFN4O
